US07338967B2
To a solution of 80 mg (0.19 mmol) of 5-(2-chlorophenyl)-3-(2,4-dichlorophenyl)-4-[(3-pyridyl)carbonyl]isoxazole in 3 mL of ethanol at 0° C. was added 40 mg (1.06 mmol) of sodium borohydride. The mixture was stirred for 2 hrs and then diluted with ethyl acetate. The ethyl acetate solution was washed with saturated sodium chloride solution and dried over magnesium sulfate. The drying agent was filtered off, and the ethyl acetate was removed by rotoevaporation. The crude product was purified by prep TLC to give 65 mg (0.15 mmol) of 5-(2-chlorophenyl)-3-(2,4-dichlorophenyl)-4-[(3-pyridyl)hydroxymethyl]-isoxazole. 1H NMR (CDCl3): δ 5.80 (br s, 1), 6.97 (m,1), 8.23 (br s, 1), and 8.28 ppm (br s, 1). MS m/z: 431.0 (M+H).

reactant | 5-(2-chlorophenyl)-3-(2,4-dichlorophenyl)-4-[(3-pyridyl)carbonyl]isoxazole | 0.19 mmol, 80 mg | ClC1=C(C=CC=C1)C1=C(C(=NO1)C1=C(C=C(C=C1)Cl)Cl)C(=O)C=1C=NC=CC1 | C21H11Cl3N2O2
reactant | sodium borohydride | 1.06 mmol, 40 mg | [BH4-].[Na+]
solvent | ethanol | 3 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(2-chlorophenyl)-3-(2,4-dichlorophenyl)-4-[(3-pyridyl)hydroxymethyl]-isoxazole | 0.15 mmol, 65 mg | ClC1=C(C=CC=C1)C1=C(C(=NO1)C1=C(C=C(C=C1)Cl)Cl)C(O)C=1C=NC=CC1 | C21H13Cl3N2O2
